US05141945
The suspension of 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one (2.0 g) in methanol (60 ml) was treated with hydrogen chloride in ethanol and then diluted with hot aqueous ethanol (water:ethanol, 1:4) to give a clear solution. After filtration of the insoluble materials, the filtrate was evaporated under reduced pressure to about 40 ml and allowed to stand at room temperature overnight. Filtration, followed by washing with ethanol, gave 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)-methyl]pyrido[1,2-a]indol-6(7H)-one hydrochloride (2.10 g) as crystals.

reactant | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one | 2.0 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)-methyl]pyrido[1,2-a]indol-6(7H)-one hydrochloride | 2.10 g | Cl.CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | InChI=1S/C18H19N3O.ClH/c1-11-14-5-3-4-6-17(14)21-16(11)8-7-13(18(21)22)9-15-12(2)19-10-20-15;/h3-6,10,13H,7-9H2,1-2H3,(H,19,20);1H
